US04874775
N-(2-phenylethyl)-N-(pyridin-3-ylmethyl)methanesulfonamide
A 4.4 g. portion of 3-(2-phenylethyl)aminomethylpyridine was reacted with 2.4 g. of methanesulfonyl chloride in the presence of 4 g. of potassium carbonate in 60 ml. of dichloromethane at ambient temperature for several days. The mixture was then diluted with 100 ml. of dichloromethane and extracted with 50 ml. of water. The organic layer was dried over magnesium sulfate and concentrated under vacuum. The residue was taken up in toluene and chromatographed on silica gel, eluting with 9:1 toluene:acetone. The product-containing fractions were combined and evaporated under vacuum, and the residue solidified on standing. The solids were triturated in ether and dried to obtain 1.8 g. of the desired product, m.p. 94°-95°.

reactant | 3-(2-phenylethyl)aminomethylpyridine | C1(=CC=CC=C1)CCNCC=1C=NC=CC1 | C14H16N2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-phenylethyl)-N-(pyridin-3-ylmethyl)methanesulfonamide | C1(=CC=CC=C1)CCN(S(=O)(=O)C)CC=1C=NC=CC1 | C15H18N2O2S
